US09085570B2
A mixture of methyl 4-(4-(chloromethyl)-5-methyloxazol-2-yl)benzoate (2.0 g, 7.55 mmol, 1.00 equiv), lithium 4-(3-morpholinopropyl)benzenesulfinate (4.0 g, 14.55 mmol, 1.93 equiv) and potassium carbonate (1.35 g, 9.78 mmol, 1.30 equiv) in N,N-dimethylformamide (50 mL) was stirred overnight at 70° C. The product was precipitated by the addition of 150 mL ice and water after the reaction was cooled to room temperature. The solid was collected by filtration, washed with 2×15 mL of water and dried in a vacuum oven to give 2.8 g (74%) of methyl 4-(5-methyl-4-((4-(3-morpholinopropyl)phenylsulfonyl)methyl)oxazol-2-yl)benzoate as a white solid. LC-MS: (ES, m/z): 499 [M+H]+, 115.

reactant | methyl 4-(4-(chloromethyl)-5-methyloxazol-2-yl)benzoate | 7.55 mmol, 2.0 g, 1.00 equiv | ClCC=1N=C(OC1C)C1=CC=C(C(=O)OC)C=C1 | C13H12ClNO3
reactant | lithium 4-(3-morpholinopropyl)benzenesulfinate | 14.55 mmol, 4.0 g, 1.93 equiv | O1CCN(CC1)CCCC1=CC=C(C=C1)S(=O)[O-].[Li+]
reactant | potassium carbonate | 9.78 mmol, 1.35 g, 1.30 equiv | C([O-])([O-])=O.[K+].[K+]
solvent | N,N-dimethylformamide | 50 mL | CN(C=O)C | C3H7NO
product | methyl 4-(5-methyl-4-((4-(3-morpholinopropyl)phenylsulfonyl)methyl)oxazol-2-yl)benzoate | 2.8 g, 74% | CC1=C(N=C(O1)C1=CC=C(C(=O)OC)C=C1)CS(=O)(=O)C1=CC=C(C=C1)CCCN1CCOCC1 | C26H30N2O6S
